US04478833
8-Benzyloxy-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]-pyrimidine
An alcoholate solution, prepared from 22 gm (0.2 mol) of benzyl alcohol in 100 ml of absolute benzene with 1.6 gm (0.07 mol) of sodium, was added to a solution of 15.9 gm (0.05 mol) of 2,8-dichloro-4-(1-oxido-thiomorpholino)pyrimido[5,4-d]-pyrimidine in 400 ml of dioxane at about 30° C., and the mixture thus obtained was stirred at room temperature for about two hours. The reaction mixture was then evaporated in vacuo, and the residue was admixed with about 500 ml of water. The precipitate which solidified after standing for a short time, was filtered off, washed with water and dried at about 70° C.

reactant | benzyl alcohol | 0.2 mol, 22 gm | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium | 0.07 mol, 1.6 gm | [Na] | Na
reactant | 2,8-dichloro-4-(1-oxido-thiomorpholino)pyrimido[5,4-d]-pyrimidine | 0.05 mol, 15.9 gm | ClC=1N=C(C2=C(N1)C(=NC=N2)Cl)N2CCS(CC2)=O | C10H9Cl2N5OS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 8-Benzyloxy-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]-pyrimidine | C(C1=CC=CC=C1)OC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl | C17H16ClN5O2S
